US08871753B2
Step C: 6-Fluoro-2,4,8,20,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a mixture of N-{3-[2-(6-aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride (35.0 mg, 0.084 mmol) and triethylamine (0.035 mL, 0.25 mmol) in a mixed solvent of 1,4-dioxane (0.70 mL) and N,N-dimethylformamide (0.70 mL) was added (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (5.8 mg, 0.01 mmol), palladium acetate (2.3 mg, 0.01 mmol) and cesium carbonate (54.7 mg, 0.17 mmol). The mixture was degassed by bubbling N2 through the solution. The sealed tube was then microwaved at 160° C. for 1 hour. The reaction mixture was diluted with THF/MeOH, filtered and concentrated to give a residue, which was purified by silica gel column chromatography to provide the desired product as a white powder (6.4 mg, 25%). LCMS for C17H15FN5 (M+H)+: m/z=308.1.

reactant | N-{3-[2-(6-aminopyridin-2-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride | 0.084 mmol, 35.0 mg | Cl.Cl.NC1=CC=CC(=N1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl
reactant | triethylamine | 0.25 mmol, 0.035 mL | C(C)N(CC)CC | C6H15N
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.01 mmol, 5.8 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.17 mmol, 54.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.01 mmol, 2.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 0.70 mL | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 0.70 mL | O1CCOCC1 | C4H8O2
product | 6-Fluoro-2,4,8,20,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 6.4 mg, 25% | FC=1C=NC=2NC=3C=CC=C(CCC4=CC=CC(NC1N2)=C4)N3 | C17H14FN5
